US04840971
Synthesis of 2-(4-ethoxyphenyl)-3,3,3-trifluoropropyl 4-fluoro-3-phenoxybenzyl ether (compound (2))
Under a nitrogen atmosphere, 113 mg of sodium hydride (60% oil dispersion) was added to 20 ml of dry DMF. A solution of 0.60 g of 2-(4-ethoxyphenyl)-3,3,3-trifluoropropanol and 0.65 g of 4-fluoro-3-phenoxybenzyl bromide in 5 ml of dry DMF was then added at room temperature, and the reaction solution was stirred at that temperature for 15 hours. Thereafter, the reaction mixture was poured into dilute HCl-ice water and extracted twice with diethyl ether. The ether layers were combined, washed with saturated sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was removed under a reduced pressure, and the residue was subjected to column chromatography on silica gel [eluted with n-hexane/ethyl acetate (25:1) mixture] to obtain 0.64 g of the desired compound.

reactant | sodium hydride | 113 mg | [H-].[Na+]
reactant | 2-(4-ethoxyphenyl)-3,3,3-trifluoropropanol | 0.60 g | C(C)OC1=CC=C(C=C1)C(CO)C(F)(F)F | C11H13F3O2
reactant | 4-fluoro-3-phenoxybenzyl bromide | 0.65 g | FC1=C(C=C(CBr)C=C1)OC1=CC=CC=C1 | C13H10BrFO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-(4-ethoxyphenyl)-3,3,3-trifluoropropyl 4-fluoro-3-phenoxybenzyl ether | 0.64 g | FC1=C(C=C(COCC(C(F)(F)F)C2=CC=C(C=C2)OCC)C=C1)OC1=CC=CC=C1 | C24H22F4O3
